US04973354
3.2 g of borane/tert-butylamine complex was added to 200 ml of diethyl ether solution containing 15.6 g (0.10 mol) of methyl cyclohexanone-2-carboxylate and stirred overnight at room temperature. An aqueous diluted hydrochloric acid was added thereto to make it weakly acidic, which was then subjected to liquid-liquid separation. The organic layer separated was dried, concentrated and then distilled under reduced pressure to obtain 13.4 g of ethyl 2-hydroxycyclohexanecarboxylate. Yield: 84.8%. b.p. 60° to 62° C. (0.3 mmHg).

reactant | methyl cyclohexanone-2-carboxylate | 0.10 mol, 15.6 g | COC(=O)C1CCCCC1=O | C8H12O3
reactant | hydrochloric acid | Cl | ClH
reactant | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | ethyl 2-hydroxycyclohexanecarboxylate | 13.4 g, Yield: 84.8% | OC1C(CCCC1)C(=O)OCC | C9H16O3
